US07947690B2
A mixture of 321 mg of 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]-1,4-diazepan-5-one and 10 ml of 5% sulfuric acid was stirred at 100° C. for 27 hours. After the solvent was distilled off under reduced pressure, 10 ml of dioxane, 10 ml of saturated aqueous sodium bicarbonate solution, and 0.18 g of DIBOC (tert-butoxycarbonyl anhydride) were added in turn to the residue obtained, and the mixture was stirred at ambient temperature for 1 hour. Precipitate was filtered, and the filtrate was evaporated under reduced pressure. The residue was dissolved in chloroform, washed with 5% aqueous citric acid solution and then water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and 4M HCl-dioxane solution was added to the residue, the resultant solution was stirred, and then the solvent was distilled off under reduced pressure. To the residue was added saturated aqueous sodium bicarbonate solution, the aqueous solution was washed with chloroform, added 5% aqueous citric acid, and extracted with chloroform. The organic extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was dissolved in THF, here was added 4M HCl-dioxane solution, precipitate was collected by filtration to yield 92 mg of N-(2-aminoethyl)-N-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]-β-alanine dihydrochloride as colorless solid.

reactant | 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]-1,4-diazepan-5-one | 321 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)CS(C2)(=O)=O)N2CCNC(CC2)=O)F | C17H15ClF2N4O3S
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-aminoethyl)-N-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]-β-alanine dihydrochloride | 92 mg | Cl.Cl.NCCN(CCC(=O)O)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)CS(C2)(=O)=O | InChI=1S/C17H17ClF2N4O4S.2ClH/c18-11-6-12(19)9(5-13(11)20)16-22-14-8-29(27,28)7-10(14)17(23-16)24(4-2-21)3-1-15(25)26;;/h5-6H,1-4,7-8,21H2,(H,25,26);2*1H
